Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
___: EGD and Colonoscopy with biopsy

 
History of Present Illness:
Mr. ___ is a ___ with hx Afib/flutter on Coumadin s/p 
cardioversion, metastatic colorectal cancer to liver s/p 
colectomy, papillary thyroid cancer s/p thyroid lobectomy, grade 
1 pancreatic NET, thoracic cancer, and recent R frontal embolic 
stroke two weeks ago, who presents from home with anemia below 
his baseline of ___. He was having routine bloodwork with PCP 
at ___ and noted h/h had downtrended 
to 6.8/22.7, and was referred to ED. While his blood was being 
drawn at the outside facility, he noticed some vision changes 
that he does not recall having before.

In the ED, initial VS were T 98.1 HR 62 BP 110/67 RR 15 O2 sat 
100% RA. No notable exam findings. Labs showed Hgb 5.9, Hct 
20.8, MCV 91, WBC 3.9, ___ 25.9, INR 2.4. After transfusion with 
1 unit PRBC, his Hgb was 6.6, Hct 21.9, WBC normalized to 5.3, 
and he was admitted to medicine for further management.  

On the floor, he is not in any distress. He states that he has 
been feeling well lately, notes no particular fatigue, 
lightheadedness, or chest pain. He states that he can normally 
walk over a block without getting short of breath. Recently, in 
the past couple weeks, he has felt fatigued and hasn't been able 
to be as active. He has not noticed any bloody or dark output 
from his colostomy but does state that there are some bloody 
flecks around the ostomy when he showers. He reports abdominal 
pain in the LLQ around his ostomy sometimes after he eats. He 
endorses chronic back pain that is worse when lying down and 
when sitting in the same position for too long, but it goes away 
when he is active. He states that his right knee seems larger to 
him than his left knee.

He has a history of anemia and has been transfused in the past. 
He is not aware of any known etiology of his anemia, but when 
asked what he thinks might have caused his anemia, he stated 
that he has recently started Depakote two weeks ago and wonders 
whether it could be contributory. 

Of note, he was hospitalized two weeks ago for encephalopathy 
due to lithium toxicity. He was also previously admitted in 
___ for bradycardia requiring pacemaker placement (after 
failed cardioversion on ___ from A-fib to NSR). This course 
was complicated by possible R embolic stroke, though he 
currently has no neurologic deficits.
 
Past Medical History:
- s/p cardioversion for Aflutter on ___
- metastatic colorectal cancer with liver mets
- undergoing sterotactic body radiotherapy with RadOnc
- thyroid cancer s/p lobectomy in ___
- grade 1 neuroendocrine tumor in pancreas
- papillary thyroid cancer s/p total thyroidectomy ___ and 
I-131
- right adrenal adenoma
- bipolar disorder
- hypertension
- erectile dysfunction
- chronic back problems and sciatica s/p laminectomy ___
- s/p left hip replacement ___
- s/p closure ASD ___ 
 
Social History:
___
Family History:
Mother - DVT
___ any family history of strokes.
Children healthy.
 
Physical Exam:
ADMISSION:  
VS:  T 98.1 HR 62 BP 110/67 RR 15 O2 sat 100% RA 
General: comfortable, nontoxic
HEENT: no pharyngeal erythema, swelling or asymmetry. moist 
mucous membranes, no mucosal pallor
neck: no cervical midline tenderness, JVP WNL
cv: irregular rhythm, no MRG
pulm: clear to auscultation bilaterally
abd: soft, nontender, no guarding. left-sided ostomy with 
prolapsed pink moist mucosa. ___ amt light brown stool. no 
tenderness surrounding ostomy site. 
ext: no swelling, no tenderness to palpation. DP/PTs palpable on 
the left, ___ difficult to palpate on the right
skin: no rash, skin is warm and dry
neuro: a+ox3. no focal deficits

DISCHARGE: 
General: Well appearing, NAD
Neck: no JVD, no LAD
CV: RRR, Systolic murmur throughout precordium
Lungs: Clear to auscultation bilaterally, breathing comfortably  

Abdomen: Soft, nontender, nondistended, ostomy with prolapsed 
pink mucosa unchanged in appearance 
Ext: Warm and well perfused, pulses, no edema  
Neuro: AOx3. No neurologic deficits.
 
Pertinent Results:
ADMISSION: 
___ 12:39PM BLOOD WBC-3.9* RBC-2.23*# Hgb-5.9*# Hct-20.8*# 
MCV-93 MCH-26.5 MCHC-28.4* RDW-18.1* RDWSD-61.3* Plt ___
___ 12:39PM BLOOD Neuts-68.1 ___ Monos-9.7 Eos-1.5 
Baso-0.3 Im ___ AbsNeut-2.67# AbsLymp-0.78* AbsMono-0.38 
AbsEos-0.06 AbsBaso-0.01
___ 12:39PM BLOOD ___ PTT-30.7 ___
___ 07:43PM BLOOD ___ 12:39PM BLOOD Ret Aut-4.1* Abs Ret-0.09
___ 12:39PM BLOOD Glucose-91 UreaN-15 Creat-1.2 Na-134 
K-4.6 Cl-100 HCO3-22 AnGap-17
___ 12:39PM BLOOD LD(LDH)-241 TotBili-0.4 DirBili-<0.2 
IndBili-0.4
___ 12:39PM BLOOD Iron-26*
___ 07:25AM BLOOD Albumin-3.1* Calcium-9.3 Phos-2.5* Mg-1.9
___ 12:39PM BLOOD calTIBC-369 VitB12-379 Hapto-157 
Ferritn-21* TRF-284
___ 07:30AM BLOOD Valproa-28*

STUDIES:

___ CT Abdomen and Pelvis without Contrast
1. No evidence of retroperitoneal hematoma or other explanation 
for drop in hematocrit. 
2. Unchanged large heterogeneous partly necrotic mass arising 
from the right liver border, better assessed on prior MRI. 
3. Unchanged right adrenal adenoma.  Moderate hiatal hernia. 
4. Status post abdominal perineal resection with unchanged 
presacral 
postoperative seroma. 
5. Severe degenerative changes at the left hip with left hip 
effusion. 

DISCHARGE: 
___ 06:13AM BLOOD WBC-5.8 RBC-2.97* Hgb-8.3* Hct-26.8* 
MCV-90 MCH-27.9 MCHC-31.0* RDW-17.2* RDWSD-55.7* Plt ___
___ 06:13AM BLOOD ___ PTT-32.2 ___
___ 06:13AM BLOOD Glucose-78 UreaN-10 Creat-1.0 Na-138 
K-3.8 Cl-106 HCO3-22 AnGap-14
___ 06:13AM BLOOD Calcium-9.5 Phos-2.4* Mg-1.___ with a history of afib/flutter on coumadin s/p 
cardioversion, metastatic colorectal cancer to liver s/p 
colectomy, papillary thyroid cancer s/p thyroid lobectomy, grade 
1 pancreatic NET, and recent right-sided frontal embolic stroke, 
who presents from home with anemia below his baseline of ___.

#Metastatic colorectal cancer s/p colectomy:
#Normocytic Anemia:
The patient presented with a Hb of 5.9 from a baseline of ___. 
The patient received 2U pRBCs. Stool was initially guaiac 
positive, then resulted negative. Iron studies showed iron 
deficiency. CT abdomen showed no signs of retroperitoneal bleed, 
but large exophytic liver mass with concern for erosion into 
bowel. Hematology-Oncology was consulted given concern for 
bleeding from active malignancy. GI was consulted and performed 
endoscopy/colonoscopy revealing mass eroding into the duodenum 
which was likely source of bleeding. Biopsies were taken and 
pathology should be followed-up in clinic. Radiation oncology 
and hepatobilliary surgery were consulted and intervention was 
deferred due to operative risk and risk of radiation necrosis. 
The patient should follow-up with oncology for further 
treatment. He received 1U pRBCs ___ and he should have 
repeat CBC drawn on ___. He has a functional tunneled port.

#Atrial Fibrillation s/p PPM:
The patient remained hemodynamically stable with heart rates 
under control. His Coumadin was stopped and he was put on a 
heparin drip for his GI procedures. He was then continued on 
anticoagulation with lovenox. Cardiology was consulted as the 
patient was anxious about his pacemaker, and team decision was 
that lovenox would be the best anticoagulation strategy going 
forward. He should have repeat CBC as above for ongoing 
bleeding. 

#HFpEF:
EF 50-55% in ___. Remained euvolemic during hostpialization. 
Torsemide was held given continued bleeding.

#Bipolar: 
Continued Depakote. Valproate level 28. No evidence of mood 
dysregulation. Follow-up in clinic with adjustment of Depakote 
dose as appropriate. 

#Metastatic colorectal cancer to liver s/p colectomy
#Papillary thyroid cancer s/p thyroid lobectomy
#Grade 1 pancreatic NET
The patient should follow-up with oncology for management of 
metastatic colon cancer as above. He should see genetics in the 
outpatient setting for workup of possible Multiple Endocrine 
Neoplasia. Home levothyroxine was continued.

#Recent R frontal stroke: 
Stable without overt sequellae. Given ongoing H/H drop requiring 
pRBC transfusion, decision was made to use lovenox monotherapy. 
He should have repeat CBC as above for ongoing bleeding. 

TRANSITIONAL ISSUES:
- GI biopsies were taken and pathology should be followed-up in 
clinic
- Follow-up with oncology for further treatment.
- Discharged on lovenox monotherapy (Coumadin discontinued as 
above).
- Outpatient labs: repeat CBC on ___. Fax to PCP and 
oncology. Would recommend consideration of RBC transfusion for 
Hb<7.
- Torsemide was held given continued bleeding.
- Valproate level 28. Follow-up in clinic with adjustment of 
Depakote dose as appropriate.
- Recommend genetics in the outpatient setting for workup of 
possible Multiple Endocrine Neoplasia.
- Tunneled port will need to be flushed every ___ weeks

#CODE: Full Code
#CONTACT:
Next of Kin: ___ 
Relationship: WIFE 
Phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Levothyroxine Sodium 200 mcg PO 6X/WEEK (___) 
3. Levothyroxine Sodium 300 mcg PO 1X/WEEK (___) 
4. Metoprolol Succinate XL 37.5 mg PO DAILY 
5. Torsemide 10 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. Acetaminophen 1000 mg PO BID:PRN Pain - Mild 
8. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QID 
9. Warfarin 4 mg PO DAILY16 
10. Divalproex (EXTended Release) 500 mg PO QHS 
11. Gabapentin 300 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 90 mg SC Q12H 
RX *enoxaparin 80 mg/0.8 mL 1 syringe INJ twice a day Disp #*10 
Syringe Refills:*0 
2.  OxyCODONE (Immediate Release) 2.5 mg PO TID 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth three times 
a day Disp #*14 Tablet Refills:*0 
3.  Acetaminophen 1000 mg PO BID:PRN Pain - Mild  
4.  Allopurinol ___ mg PO DAILY  
5.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QID  
6.  Divalproex (EXTended Release) 500 mg PO QHS  
7.  Gabapentin 300 mg PO DAILY  
8.  Levothyroxine Sodium 200 mcg PO 6X/WEEK (___)  

9.  Levothyroxine Sodium 300 mcg PO 1X/WEEK (___)  
10.  Metoprolol Succinate XL 37.5 mg PO DAILY  
11.  Vitamin D ___ UNIT PO DAILY  
12.Outpatient Lab Work
LAB WORK ___
LABS: CBC
ICD CODE: ___
PLEASE FAX TO: ___ AND ___ 
(___)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Metastatic Colorectal Cancer
Anemia

SECONDARY:
Atrial Fibrillation
Chronic diastolic heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ 
because you had a drop in hemoglobin on your routine bloodwork. 

WHILE YOU WERE HERE:
-We gave you 3 blood transfusions, once in the emergency 
department and twice in the hospital
-We consulted our gastroenterologist doctors to ___ in your 
intestines with a camera
-We found that you have a mass eroding into your intestine which 
is likely causing your bleeding
-You were seen by our hematologists, radiation oncologists, 
surgeons, and cardiologists, who helped arrange for the best 
follow-up

WHEN YOU LEAVE THE HOSTPIAL:
- Please continue to take all of your medications as directed
- Please follow-up with oncology, cardiology, and your primary 
doctor
- For any concerning symptoms, please call your doctor or return 
to the emergency department immediately

Please note that we are changing you from Coumadin to lovenox as 
your anticoagulation to prevent stroke. You will no longer take 
Coumadin for the foreseeable future. This is to minimize your 
bleeding risk given your known mass.

Thank you for allowing us to care for you here,
Your ___ Care Team
 
Followup Instructions:
___